US05216171
2-Methylaminocarbonylamino-4-trichloromethylpyridine
17 ml (0.3 mol) of methyl isocyanate and 1 ml of triethylamine were added to 21.2 g (0.1 mol) of 2-amino-4-trichloromethylpyridine and 400 ml of toluene at 25° C. After 4 hours at 80° C., the resulting solid was isolated. 21.8 g (82%) of the desired product were obtained. Mp.: 192°-195° C.; Active Ingredient Example 2.001

reactant | methyl isocyanate | 0.3 mol, 17 ml | CN=C=O | C2H3NO
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4-trichloromethylpyridine | 0.1 mol, 21.2 g | NC1=NC=CC(=C1)C(Cl)(Cl)Cl | C6H5Cl3N2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methylaminocarbonylamino-4-trichloromethylpyridine | 21.8 g, 82% | CNC(=O)NC1=NC=CC(=C1)C(Cl)(Cl)Cl | C8H8Cl3N3O
